US06326382B1
a) 4-[2-[5,6-Dimethyl-1,2-benzisoxazol-3-yl]ethyl]-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester
The procedure described in Example 1d was followed using 3,5,6-trimethyl-1,2-benzisoxazole (0.600 g, 3.73 mmol), 4-iodomethyl-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester (1.30 g, 4.10 mmol), and 1M LDA (4.10 mL, 4.10 mmol) in dry THF (10 mL). After purification, the title compound (1.04 g, 78%) was obtained as a clear oil.

reactant | 3,5,6-trimethyl-1,2-benzisoxazole | 3.73 mmol, 0.600 g | CC1=NOC2=C1C=C(C(=C2)C)C | C10H11NO
reactant | 4-iodomethyl-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester | 4.10 mmol, 1.30 g | ICC1CCN(CC1)C(=O)OC(C)(C)C | C11H20INO2
reactant | LDA | 4.10 mmol, 1M, 4.10 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[2-[5,6-Dimethyl-1,2-benzisoxazol-3-yl]ethyl]-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester | 1.04 g, 78% | CC=1C(=CC2=C(C(=NO2)CCC2CCN(CC2)C(=O)OC(C)(C)C)C1)C | C21H30N2O3
